US06977262B2
Ethyl 4-(2,3-dihydobenzo[b]furan-7-yl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2,3-dihydobenzo[b]furan-7-aldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2,3-dihydobenzo[b]furan-7-aldehyde | O1C2=C(CC1)C=CC=C2C=O | C9H8O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4-(2,3-dihydobenzo[b]furan-7-yl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | O1C2=C(CC1)C=CC=C2C2C=1C(NC(=C2C(=O)OCC)CCC)=NNC1 | C20H23N3O3
